US05342903
A 1 liter 3-necked flask equipped with thermometer, stirrer, reflux condenser, and dropping funnel is charged under N2 gas with 50.0 g (0.347 mol) of cyclohexane-1,4-dimethanol and 1.0 g of catalyst H and the reaction mixture is heated to 130° C. With stirring, 163.8 ml (0.69 mol) of epichlorohydrin are added dropwise, and the reaction mixture is thereafter allowed to react for 1 h. After cooling to 40° C., 6.6 g (0.0825 mol) of a 50% aqueous solution of NaOH are added to the solution, followed by the addition of 23.1 g (0.578 mol) of pulverised NaOH in increments over 1 h. The suspension is further stirred, diluted with 155 ml of water and filtered. The organic phase is separated and then dried at 100° C. under vacuum on a rotary evaporator, giving 86.2 g (97% of theory) of glycidyl ether of cyclohexane-1,4-dimethanol as a yellowish liquid having an epoxy value of 6.43 mol/kg (82% of theory) and a total chlorine content of 3.9%.

reactant | cyclohexane-1,4-dimethanol | 0.347 mol, 50.0 g | C1(CCC(CC1)CO)CO | C8H16O2
reactant | epichlorohydrin | 0.69 mol, 163.8 ml | C(Cl)C1CO1 | C3H5ClO
reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 0.578 mol, 23.1 g | [OH-].[Na+]
solvent | water | 155 ml | O | H2O
product | glycidyl ether | 86.2 g, 97% | C(C1CO1)OCC1CO1 | C6H10O3
